US08471005B2
4-Methoxy-3-morpholin-4-yl-phenylamine (80.0 mg, 0.384 mmol), N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide (70.0 mg, 0.192 mmol) and N,N-Diisopropylethylamine (0.100 mL, 0.576 mmol) were dissolved in 1-Methoxy-2-propanol (0.75 mL, 7.7 mmol). The reaction was irradiated at 300 watts, 200° C. for 20 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced and the crude residue was isolated and purified by Gilson prep HPLC to afford 37.80 mg of N-{2-[2-(4-Methoxy-3-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide as a lyophilized powder. (M+H)=509.0. 1H NMR (400 MHz, DMSO, d6) δ 9.18 (s, 1H), 8.94 (s, 1H), 7.73 (m, 1H), 7.65 (m, 1H), 7.52 (m, 2H), 7.41 (m, 1H), 7.05 (d, 1H, J=8.80 Hz), 6.91 (m, 1H), 6.83 (m, 2H), 3.72 (s, 3H), 3.61 (m, 4H), 3.06 (s, 3H), 2.79 (s, 3H), 2.60 (m, 4H).

reactant | 4-Methoxy-3-morpholin-4-yl-phenylamine | 0.384 mmol, 80.0 mg | COC1=C(C=C(C=C1)N)N1CCOCC1 | C11H16N2O2
reactant | N-[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 0.192 mmol, 70.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C15H16N4O3S2
reactant | N,N-Diisopropylethylamine | 0.576 mmol, 0.100 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 7.7 mmol, 0.75 mL | COCC(C)O | C4H10O2
product | N-{2-[2-(4-Methoxy-3-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 37.80 mg | COC1=C(C=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)N2CCOCC2 | C25H28N6O4S
